US05304649
Preparation of OO-t-Butyl O-(2-Hydroxypropyl) Monoperoxyphthalate (I-11)
A 300 mL 3-neck round-bottom flask, equipped with a magnetic stirrer, a thermometer, a cold water condenser and an addition funnel, was charged with 100 mL of methyl t-butyl ether, 16.7 g (0.06 mole) of 91.3% of 2-(t-butylperoxycarbonyl)benzoyl chloride and 5.5 g (0.07 mole) of pyridine. To this vigorously stirred solution at 20° C. was added 22.8 g (0.30 mole) of 1,2-propanediol over a period of 20 minutes. During the addition there was a slight exotherm and a white precipitate formed. The reaction mass was warmed to 25° C. and stirred at 25° C. for 240 minutes. The precipitate was separated by filtration and the white solid was washed with about 25 mL of methyl t-butyl ether. The methyl t-butyl ether washings were combined with the filtrate and the filtrate was washed twice with 50 mL portions of 5% aqueous HCl solution, then twice with 50 mL portions of 3% aqueous NaHCO3 solution. The methyl t-butyl ether solution was then dried over 10% by weight of anhydrous MgSO4 and, after separation of the spent desiccant by filtration, the solvent was removed in vacuo leaving 17.4 g (98.3% of theory, uncorrected) of a straw-color liquid. An infrared spectrum of the product showed a strong OH band at ca. 3500 cm-1 and two carbonyl bands at ca. 1720 cm-1 and 1770 cm-1. The product had a peroxyester Act[O] content of 5.02%. Based on a theoretical Act[O] of 5.40% for the desired title product, the assay was 93.0% and the corrected yield was 91.4%.

reactant | 2-(t-butylperoxycarbonyl)benzoyl chloride | 0.06 mole, 16.7 g | C(C)(C)(C)OOC(=O)C1=C(C(=O)Cl)C=CC=C1 | C12H13ClO4
reactant | pyridine | 0.07 mole, 5.5 g | N1=CC=CC=C1 | C5H5N
reactant | 1,2-propanediol | 0.30 mole, 22.8 g | C(C(C)O)O | C3H8O2
solvent | methyl t-butyl ether | 100 mL | C(C)(C)(C)OC | C5H12O
product | t-Butyl O-(2-Hydroxypropyl) Monoperoxyphthalate | yield was 91.4% | C(C=1C(C(=O)OCC(C)O)=CC=CC1)(=O)OOC(C)(C)C | C15H20O6
